US08278290B2
(iii) 6-Methoxy-2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-3-(3,4,5-trimethoxybenzoyl)benzo[b]furan
This compound was prepared by application of the general procedure to 2-iodo-5-methoxy-phenol, 4-ethynyl-1-(4-methoxy-benzyl)-1H-pyrazole and 3,4,5-trimethoxy-iodo-benzene. The crude product was stirred with potassium carbonate (excess) in methanol for 3 h to hydrolyse ester by-products and submitted to silica-gel flash chromatography (eluent=2:1 hexanes: ethyl acetate) to afford a mixture of the title compound and the corresponding non-carbonyl inserted derivative. This mixture was used directly in the subsequent deprotection. An analytical sample was purified by recrystallisation from dichloromethane/hexane. 1H-NMR (CDCl3) δ 8.03 (s, 1H), 8.01 (s, 1H), 7.18 (d, J=8.6 Hz, 2H), 7.14 (d, J=8.7 Hz, 1H), 7.10 (s, 2H), 7.02 (d, J=2.2 Hz, 1H), 6.86 (d, J=8.6 Hz, 2H), 6.79 (dd, J=8.7, 2.2 Hz, 1H), 5.22 (s, 2H), 3.92 (s, 3H), 3.85 (s, 3H), 3.78 (s, 3H), 3.75 (s, 6H). 13C—NMR (CDCl3) δ 190.2, 159.5, 158.1, 154.2, 153.3, 152.9, 142.3, 139.1, 133.6, 129.8, 129.3, 127.6, 121.7, 120.9, 114.2, 113.8, 112.9, 112.2, 107.0, 95.5, 60.9, 56.1, 55.8, 55.6, 55.2.

reactant | 2-iodo-5-methoxy-phenol | IC1=C(C=C(C=C1)OC)O | C7H7IO2
reactant | 4-ethynyl-1-(4-methoxy-benzyl)-1H-pyrazole | C(#C)C=1C=NN(C1)CC1=CC=C(C=C1)OC | C13H12N2O
reactant | 3,4,5-trimethoxy-iodo-benzene | COC=1C=C(C=C(C1OC)OC)I | C9H11IO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Methoxy-2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)-3-(3,4,5-trimethoxybenzoyl)benzo[b]furan | COC=1C=CC2=C(OC(=C2C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=2C=NN(C2)CC2=CC=C(C=C2)OC)C1 | C30H28N2O7
